* Two-Stage NPN Common-Emitter Cascade Amplifier
* A classic low-frequency audio amplifier: two voltage-divider-biased
* NPN common-emitter stages coupled by a blocking capacitor Cc, each
* with a bypassed emitter to maximize gain. Input and output are AC
* coupled so the amplifier works into a floating source / floating
* load. Target midband gain is the product of the two stage gains
* (~ -gm*Rc per stage), and the overall bandwidth is bounded by the
* coupling-cap low-frequency poles and the device-capacitance high
* poles. .ac sweep reveals the full gain-vs-frequency curve.
* Devices exercised: V, R (x11), C (x5), Q (NPN bundled 2N3904, x2).

.title Two-Stage NPN CE Cascade Amplifier

* --- Supply and AC test source ---
Vdd vdd 0 DC 12
Vin in  0 AC 1

* ============================================================
* Stage 1: Q1 common-emitter (voltage divider bias + bypassed Re)
* ============================================================
Rb1a vdd b1 68k
Rb1b b1  0  12k
Rc1  vdd c1 4.7k
Re1  e1  0  1k
Ce1  e1  0  22u

Cin  in b1  1u
Q1   c1 b1 e1 2N3904

* ============================================================
* Stage 2: Q2 common-emitter, AC-coupled from Q1 collector
* ============================================================
Cc   c1  b2 1u

Rb2a vdd b2 68k
Rb2b b2  0  12k
Rc2  vdd c2 4.7k
Re2  e2  0  1k
Ce2  e2  0  22u

Q2   c2 b2 e2 2N3904

* --- Output coupling to a 47k load ---
Cout  c2 out 1u
Rload out 0  47k

* --- Analysis ---
.ac dec 20 1 100Meg

.MEASURE AC av_midband FIND vdb(out) AT=10k
.MEASURE AC f_low_3db  WHEN vdb(out)=(av_midband - 3) RISE=1
.MEASURE AC f_high_3db WHEN vdb(out)=(av_midband - 3) FALL=1

.end
